US05464811
A solution of 2-fluoro-4-chloro-5-methoxycarbonyloxyaniline (20.0 g, 91.1 mmol) and 3,4,5,6-tetrahydrophthalic anhydride (14.0 g, 92.0. mmol) in acetic acid (200 ml) was reacted for 5 hours while heating under refluxing. After completion of the reaction, the mixture was cooled to room temperature, water (200 ml) was added thereto, and extracted with ethyl acetate (100 ml×3 times). The organic layer was washed with an aqueous solution of sodium carbonate and water, dried, and the solvent was distilled off under reduced pressure. The resulting oily substance was purified by silica gel column chromatography (development solvent: ethyl acetate/hexane=1/5) to obtain N-(2-fluoro-4-chloro-5-methoxycarbonyloxyphenyl)-3,4,5,6-tetrahydrophthalimide as a white solid (26.2 g, 72.1 mmol, 79.2% yield).

reactant | 2-fluoro-4-chloro-5-methoxycarbonyloxyaniline | 91.1 mmol, 20.0 g | FC1=C(N)C=C(C(=C1)Cl)OC(=O)OC | C8H7ClFNO3
reactant | 3,4,5,6-tetrahydrophthalic anhydride | 14.0 g | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
reactant | water | 200 ml | O | H2O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | N-(2-fluoro-4-chloro-5-methoxycarbonyloxyphenyl)-3,4,5,6-tetrahydrophthalimide | 72.1 mmol, 26.2 g, 79.2% yield | FC1=C(C=C(C(=C1)Cl)OC(=O)OC)N1C(C2=C(C1=O)CCCC2)=O | C16H13ClFNO5
